US07037908B2
N-(4-fluorobenzyl)-2-(2-dimethylsulfamoylphenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2-dimethylsulfamoyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (0.076 g, 0.2mmol), and 4-fluorobenzylamine (0.11 mL, 1.0 mmol). The title product was obtained as white needles (0.0549 g, 60% yield). 1HNMR (500 MHz, CDCl3) δ: 12.08 (1H, s), 7.91 (1H, d, J=7.33 Hz), 7.71–7.66 (3H, m), 7.37 (1H, dd, J=7.32, 1.83 Hz), 7.22 (2H, q, J=5.50 Hz), 7.00 (2H, t, J=8.55 Hz), 4.62 (1H, dd, J=15.26, 7.02 Hz), 4.40 (1H, dd, J=14.64, 5.49 Hz), 3.23 (3H, s), 2.64 (6H, s). HRMS (ESI) calcd for C21H22FSN4O5 (M+H): 461.1295; found: 461.1300.

reactant | 2-(2-dimethylsulfamoyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.2mmol, 0.076 g | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1)S(N(C)C)(=O)=O | C16H19N3O6S
reactant | 4-fluorobenzylamine | 1.0 mmol, 0.11 mL | FC1=CC=C(CN)C=C1 | C7H8FN
product | N-(4-fluorobenzyl)-2-(2-dimethylsulfamoylphenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2)S(N(C)C)(=O)=O)C=C1 | C21H21FN4O5S
